US07521451B2
5,6-dimethyl-3-ethylcarbonyloxyethyl-2-(3-pyridyl)-isoindolin-1-one [IUPAC name: 2-[5,6-dimethyl-3-oxo-2-(3-pyridinyl)-2,3-dihydro-1H-isoindol-1-yl]ethyl propionate]
A solution of 5,6-dimethyl-2-(3-pyridyl)-3-(2-hydroxyethyl)isoindolin-1-one (50 mg, 0.18 mmol), propionyl chloride (16 mg, 0.18 mmol) and triethylamine (18 mg, 0.18 mmol) in dichlorometane was stirred at 25° C. for 3 hrs. The reaction solution was washed with water, dried, and the solvent was distilled away under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=20:1) to give 43 mg of the title compound.

reactant | 5,6-dimethyl-2-(3-pyridyl)-3-(2-hydroxyethyl)isoindolin-1-one | 0.18 mmol, 50 mg | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CCO | C17H18N2O2
reactant | propionyl chloride | 0.18 mmol, 16 mg | C(CC)(=O)Cl | C3H5ClO
reactant | triethylamine | 0.18 mmol, 18 mg | C(C)N(CC)CC | C6H15N
solvent | dichlorometane | ClCCl | CH2Cl2
product | 5,6-dimethyl-3-ethylcarbonyloxyethyl-2-(3-pyridyl)-isoindolin-1-one | 43 mg | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)CCOC(=O)CC | C20H22N2O3
